US05888972
Oxalyl chloride (38 ml) and a few drops of N,N-dimethylformamide was added to a solution of (2-chlorophenyl)acetic acid (50 g) in CH2Cl2 (300 ml). The mixture was stirred at room temperature for 3 hours, and then concentrated under reduced pressure. The residue was distilled under reduced pressure to give (2-chlorophenyl)acetyl chloride (41.24 g) as an oil.

reactant | Oxalyl chloride | 38 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (2-chlorophenyl)acetic acid | 50 g | ClC1=C(C=CC=C1)CC(=O)O | C8H7ClO2
catalyst | N,N-dimethylformamide | a few drops | CN(C=O)C | C3H7NO
solvent | CH2Cl2 | 300 ml | C(Cl)Cl | CH2Cl2
product | (2-chlorophenyl)acetyl chloride | 41.24 g | ClC1=C(C=CC=C1)CC(=O)Cl | C8H6Cl2O
